* E:\projects\Github\Hardware\Electricl circuit(Dependent source) - LTspice\Voltage dependent voltage source.asc
V1 N001 0 10v
V2 N003 0 5v
R1 N002 0 1k
R2 N001 N002 1k
R3 D NC_01 100
E1 D N003 N001 N002 10
.op 1
;tran 1
.backanno
.end
